US04569996
2-[[4-(3-Chloro-2-pyridyl)butyl]amino]-5-[(4-pyridyl)hydroxymethyl]-4-(1H)-pyrimidinone
2-[[4-(3-Chloro-2-pyridyl)butyl]amino]-4-(1H)-pyrimidinone (1.37 g) and pyridine 4-aldehyde (0.52 g) were refluxed in concentrated hydrochloric acid (5 ml) for 24 hours. The reaction mixture was evaporated under reduced pressure to afford an oil which was partitioned between chloroform (25 ml) and water (25 ml) with the addition of sodium hydroxide to take the aqueous layer to pH 6.5. The aqueous layer was washed with more chloroform (25 ml) and the combined chloroform extracts were dried (MgSO4) and evaporated under reduced pressure to give a red oil (1.5 g). This oil was stirred under hot diethyl ether which was subsequently decanted (removing some pyridine-4-aldehyde), and the oil was subjected to chromatography on silica gel with gradient elution (100% chloroform→5% methanol in chloroform). The fractions containing the desired product were collected, combined and evaporated under reduced pressure to an oil which solidified on trituration with diethyl ether. Crystallisation from aqueous ethanol afforded a white crystalline solid (0.78 g). This was further purified by dissolution in chloroform, washing with sodium hydroxide solution (pH 13), extraction into dilute hydrochloric acid (pH 4), washing with chloroform, taking to pH 7.5 and extracting back into chloroform. This was evaporated under reduced pressure to afford an oil which was crystallised from aqueous ethanol to afford the title compound (0.53 g), m.p. 90° C.; δ(CDCl3) 1.75 (4H, m), 2.95 (2H, m), 3.40 (2H, m), 5.71 (1H, s), 7.07 (1H, dd), 7.32 (2H, d), 7.40 (3H, br), 7.46 (1H, s), 7.62 (1H, dd), 8.23 (1H, dd), 8.49 (2H, d) ppm.

reactant | 2-[[4-(3-Chloro-2-pyridyl)butyl]amino]-4-(1H)-pyrimidinone | 1.37 g | ClC=1C(=NC=CC1)CCCCNC=1NC=CC(N1)=O | C13H15ClN4O
reactant | pyridine 4-aldehyde | 0.52 g | N1=CC=C(C=C1)C=O | C6H5NO
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 2-[[4-(3-Chloro-2-pyridyl)butyl]amino]-5-[(4-pyridyl)hydroxymethyl]-4-(1H)-pyrimidinone | 1.5 g | ClC=1C(=NC=CC1)CCCCNC=1NC=C(C(N1)=O)C(O)C1=CC=NC=C1 | C19H20ClN5O2
